US05243010
2-Trimethylsilyl-p-xylene ("TSTX")
To a stirred solution of 1.0M of 2-bromo-p-xylene in diethyl ether at 0° C. was added n-butyllithium hexane solution solwly, and the mixture was stirrd for 5 hr. To the above reaction mixture was added 1.0M of chlorotrimethylsilane as dropwise and it was stirred for 24 hr. The solvent was removed under reduced pressure, and the residne was redistilled in vacuo to afford titled compound(TSTX) in colorloss state. The structure of product was identified by infrared and nuclear magnetic resonance spectrum, and the result is summarized in Table 1.

reactant | 2-bromo-p-xylene | 1.0M | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | n-butyllithium hexane | CCCCCC.C(CCC)[Li]
reactant | chlorotrimethylsilane | 1.0M | Cl[Si](C)(C)C | C3H9ClSi
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Trimethylsilyl-p-xylene | C[Si](C1=C(C=CC(=C1)C)C)(C)C | C11H18Si
